US08048878B2
Synthesis of (3S,8aR)-3-(2,4,6-trifluorophenyl)hexahydroindolizin-5-one
Platinum oxide (25 mg) was added to a solution of (3S,8aR)-3-(2,4,6-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one (548 mg) in methanol (5 mL), and the reaction solution was stirred in a hydrogen atmosphere at 1 atm at room temperature for one hour. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 550 mg of the title compound. The property value of the compound is as follows.

reactant | (3S,8aR)-3-(2,4,6-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one | 548 mg | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@@H]2C=CCC(N12)=O | C14H12F3NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Platinum oxide | 25 mg | [Pt]=O
product | (3S,8aR)-3-(2,4,6-trifluorophenyl)hexahydroindolizin-5-one | 550 mg | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@H]2CCCC(N12)=O | C14H14F3NO
